US04238486
Step C: 1-Acetyl-4-azido-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one
To a solution of 1-acetyl-4-bromo-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one (8.3 g., 0.029 mole) in dimethylformamide (70 ml.) containing 5 ml of acetic acid and cooled in an ice bath, is added a solution of sodium azide (3.8 g. in 17 ml. of H2O) at such a rate that the reaction temperature does not exceed 25° C. Stirring is continued for 1.5 hours with cooling. The reaction mixture is poured into water (200 ml.) and the dark solid that separates is recovered by filtration and dried. The yield of crude 1-acetyl-4-azido-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one is 7.0 g. (97%).

reactant | 1-acetyl-4-bromo-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one | 0.029 mole, 8.3 g | C(C)(=O)N1C=C2C=3C(=CC=C(C13)Cl)C(C(C2)Br)=O | C13H9BrClNO2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | sodium azide | 17 ml, 3.8 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-Acetyl-4-azido-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one | C(C)(=O)N1C=C2C=3C(=CC=C(C13)Cl)C(C(C2)N=[N+]=[N-])=O | C13H9ClN4O2
